US04217299
Reaction was carried out in the same manner as in Example 1, except that a mixture of 1 ml of methyl oleate and 1 ml of 2-octene was used in place of 1 ml of the methyl oleate, the reaction temperature was 70° C., and the reaction time was 17 hours. There were obtained methyl 9-undecenoate in a yield of about 5% and methyl 9-pentadecanoate in a yield of about 7% (estimated from the chromatogram). Besides, metathesis products were obtained independently from methyl oleate and 2-octene.

reactant | methyl oleate | 1 ml | C(CCCCCCC\C=C/CCCCCCCC)(=O)OC | C19H36O2
reactant | 2-octene | 1 ml | CC=CCCCCC | C8H16
product | methyl 9-undecenoate | yield of about 5% | C(CCCCCCCC=CC)(=O)OC | C12H22O2
